US05422358
Preparation of 3-(R, S)-(1-cyano-1,1-diphenylmethyl)-1-(3,4-methylenedioxybenzyl)piperidine
A mixture containing 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine (0.27 g), 3,4-methylenedioxybenzyl chloride (0.18 g), anhydrous potassium carbonate (0.3 g) and acetonitrile (10 ml) was heated under reflux for 16 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 2%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless solid, yield 0.2 g, m.p. 127°-130° C.

reactant | 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.27 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H20N2
reactant | 3,4-methylenedioxybenzyl chloride | 0.18 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R, S)-(1-cyano-1,1-diphenylmethyl)-1-(3,4-methylenedioxybenzyl)piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CC1=CC2=C(C=C1)OCO2 | C27H26N2O2
